US04800199
(6R-trans)-3-[(Acetyloxy)methyl]-7-[(4-carboxy-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester
A mixture of 770 mg of (6R-trans)-3-[(acetyloxy)methyl]-7-[(aminothioxomethyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 425 mg of 3-bromo-2-oxopropanoic acid, trimethylsilyl ester, 110 mg of potassium carbonate and 15 ml of acetonitrile was reacted as described in Example 1, giving 810 mg of the desired compound.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-7-[(aminothioxomethyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 770 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC(=S)N)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3O5S2
reactant | 3-bromo-2-oxopropanoic acid, trimethylsilyl ester | 425 mg | BrCC(C(=O)O[Si](C)(C)C)=O | C6H11BrO3Si
reactant | potassium carbonate | 110 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[(4-carboxy-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 810 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C(=O)O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23N3O7S2
